US07825256B2
LiHMDS (4.62 mL of a 1.0M solution in THF, 4.62 mmol) was added dropwise to a −78° C. solution of (3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-acetic acid ethyl ester (1.00 g, 4.20 mmol) and THF (42 mL) under a nitrogen atmosphere. The reaction mixture stirred for 30 minutes prior to warming to −40° C. and addition of t-butylbromoacetate (620 μL, 4.20 mmol). The reaction stirred for 15 minutes at −40° C. before slowly warming to r.t. and stirring for an additional 6h. Sat. NH4Cl (100 mL) was added, organic layer was separated, aqueous extracted with EtOAc, the organic layers dried over Na2SO4, filtered and concentrated to a yellow solid. The yellow solid was dissolved in TFA/DCM (1:1, 10 mL) and stirred at room temperature for 45 min. The solvent was evaporated to afford 583 mg (47%) of 2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-succinic acid 1-ethyl ester as a white solid. The product was used directly in the subsequent step without further purification.

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-acetic acid ethyl ester | 4.20 mmol, 1.00 g | C(C)OC(CC1=NC(=NS1)N1C=NC=C1)=O | C9H10N4O2S
reactant | t-butylbromoacetate | 4.20 mmol, 620 μL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 42 mL | C1CCOC1 | C4H8O
product | 2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-succinic acid 1-ethyl ester | 583 mg, 47% | C(C)OC(C(CC(=O)O)C1=NC(=NS1)N1C=NC=C1)=O | C11H12N4O4S
